US05236884
HCl gas was bubbled into a suspension of N-[2-[4-carboxyphenoxy]-4,4-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline (12.0 g, 28.3 mmol, available from Eastman Kodak, Rochester, N.Y.) in absolute methanol (175 mL) for 30 minutes. The mixture was heated to reflux for 2 hrs during which complete solution was obtained. Upon cooling to room temperature, white crystals of the product began to form. The reaction mixture was cooled in an ice bath, and the solids were collected by filtration, washed with fresh methanol and air-dried to provide N-[2-[4-carbomethoxyphenoxy]-4,4-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline (8.4 g, 68% yield). The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | HCl | Cl | ClH
reactant | N-[2-[4-carboxyphenoxy]-4,4-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline | 28.3 mmol, 12.0 g | C(=O)(O)C1=CC=C(OC(C(=O)NC2=C(C=C(C=C2)Cl)Cl)C(C(C)(C)C)=O)C=C1 | C20H19Cl2NO5
reactant | methanol | 175 mL | CO | CH4O
product | N-[2-[4-carbomethoxyphenoxy]-4,4-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline | 8.4 g, 68% yield | C(=O)(OC)C1=CC=C(OC(C(=O)NC2=C(C=C(C=C2)Cl)Cl)C(C(C)(C)C)=O)C=C1 | C21H21Cl2NO5
